US05186717
a) Preparation of 2-amino-3-nitro-N-tosylaniline
0.1 mol (15.3 g) of 3-nitro-ortho-phenylenediamine is dissolved in 50 ml of pyridine, and 0.11 mol (21 g) of para-toluenesulphonyl chloride is then added gradually, whilst stirring, at between 40° and 45° C. When the addition has ended, the stirring is maintained for 15 minutes and the reaction medium is then poured into 250 ml of iced water. The expected product precipitates. It is filtered off, washed with water and recrystallised from acetic acid. It melts at 195° C.

reactant | 3-nitro-ortho-phenylenediamine | 0.1 mol, 15.3 g | [N+](=O)([O-])C=1C(=C(C=CC1)N)N | C6H7N3O2
reactant | para-toluenesulphonyl chloride | 0.11 mol, 21 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 250 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-amino-3-nitro-N-tosylaniline | NC1=C(NS(=O)(=O)C2=CC=C(C)C=C2)C=CC=C1[N+](=O)[O-] | C13H13N3O4S
